US07915443B2
(S)-5-[(2-fluorophenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
A mixture of (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (105 mg, 0.31mmol) and 1-ethynyl-2-fluorobenzene (75 mg, 0.62 mmol) in 2.0 mL EtOAc was degassed with argon at 70° C. Upon cooling to room temperature the reaction mixture was treated with triethylamine (0.16 mL, 1.1 mmol), dichlorobis(triphenylphosphine)palladium(II) (22 mg, 0.031 mmol) and copper(I) iodide (2 mg, 0.012 mmol). The reaction was heated at 70° C. for 20 hours then partitioned between EtOAc and H2O. The EtOAc layer was washed with acetic acid solution, saturated NaHCO3, brine, dried with anhydrous Na2SO4 and concentrated. The dark film obtained was purified by chromatography (silica gel, hexane/EtOAc) to give the title compound as a tan foam (110 mg, 94%).

reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.31mmol, 105 mg | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | 1-ethynyl-2-fluorobenzene | 0.62 mmol, 75 mg | C(#C)C1=C(C=CC=C1)F | C8H5F
reactant | triethylamine | 1.1 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 2.0 mL | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.031 mmol, 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.012 mmol, 2 mg | [Cu]I
product | (S)-5-[(2-fluorophenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 110 mg, 94% | FC1=C(C=CC=C1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C21H15FN2O2S
